US08071592B2
(e) 2-Oxo-1-(2-oxoethyl)-1,2-dihydro-7-quinolinecarbonitrile
A solution of 2-oxo-1-(2-propen-1-yl)-1,2-dihydro-7-quinolinecarbonitrile (600 mg, 2.9 mmol) in 1,4-dioxane (30 ml) and water (20 ml) was cooled to 0° C. and treated with OsO4 (4% in water, 3 ml) and sodium periodate (1.4 g, 6.67 mmol). The reaction was warmed to rt; 0.6 g and then 3.7 g more of sodium periodate were added. After 4 h in total, the solvent was evaporated and residue partitioned between water and 20% methanol-DCM. The phases were separated and the organic phase was dried and evaporated to afford the desired compound (660 mg, 107%).

reactant | 2-oxo-1-(2-propen-1-yl)-1,2-dihydro-7-quinolinecarbonitrile | 2.9 mmol, 600 mg | O=C1N(C2=CC(=CC=C2C=C1)C#N)CC=C | C13H10N2O
reactant | sodium periodate | 6.67 mmol, 1.4 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
catalyst | OsO4 | 3 ml | O=[Os](=O)(=O)=O
product | 2-Oxo-1-(2-oxoethyl)-1,2-dihydro-7-quinolinecarbonitrile | 660 mg, 107% | O=C1N(C2=CC(=CC=C2C=C1)C#N)CC=O | C12H8N2O2
